US05780501
1.1 ml (12.59 mmol) of oxalyl chloride and 1 drop of dimethylformamide are added at room temperature to a solution of 3.0 g is (12.59 mmol) of dibenz[b,f]oxepine-10-carboxylic acid in 20 ml of dichloromethane and the mixture is stirred for 4 hours. 1.86 ml (18.88 mmol) of piperidine and 2.62 ml (18.88 mmol) of Et3N are then added and the mixture is stirred at room temperature overnight. The reaction mixture is washed 1× with hydrochloric acid and brine, and the organic phase is dried, concentrated, subjected to column chromatography and crystallised from tert-butyl methyl ether. 2.64 g (8.6 mmol)=69% of dibenz[b,f]oxepin-10-yl-piperidin-1-yl-methanone are obtained in the form of light-yellow crystals; melting point: 127°-128° C.; 1H-NMR (CDCl3, 200 MHz): 1.30-1.50 (mbr, 2H); 1.50-1.70 (mbr, 4H); 3.30-3.45 (mbr, 2H); 363-3.78 (mbr 2H); 6.92 (s, 1H); 7.10-7.40 (m, 8H); MS: 305 (M+), 221, 193, 165; TLC (silica gel; ethyl acetate/hexane=1:1; UV): Rf =0.32.

reactant | oxalyl chloride | 12.59 mmol, 1.1 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dibenz[b,f]oxepine-10-carboxylic acid | 12.59 mmol | C1=CC=CC=2OC3=C(C(=CC21)C(=O)O)C=CC=C3 | C15H10O3
reactant | piperidine | 18.88 mmol, 1.86 ml | N1CCCCC1 | C5H11N
reactant | Et3N | 18.88 mmol, 2.62 ml | CCN(CC)CC | C6H15N
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | dibenz[b,f]oxepin-10-yl-piperidin-1-yl-methanone | 69% | C1=CC=CC=2OC3=C(C(=CC21)C(=O)N2CCCCC2)C=CC=C3 | C20H19NO2
